US09315491B2
N-(4-(5-(Methylthio)-4-morpholinopyrimidin-2-yl)phenyl)-1H-benzo[d]imidazol-2-amine
A suspension of 1-(2-aminophenyl)-3-(4-(5-(methylthio)-4-morpholinopyrimidin-2-yl)phenyl)thiourea (60 mg, 0.132 mmole) and dicyclohexylcarbodiimide (31 mg, 0.15 mmole) in THF (5 ml) was heated at 64° C. for 20 hr. The cooled mixture was purified by flash chromatography to give a product (40 mg, 73%).

reactant | 1-(2-aminophenyl)-3-(4-(5-(methylthio)-4-morpholinopyrimidin-2-yl)phenyl)thiourea | 0.132 mmole, 60 mg | NC1=C(C=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NC=C(C(=N1)N1CCOCC1)SC | C22H24N6OS2
reactant | dicyclohexylcarbodiimide | 0.15 mmole, 31 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4-(5-(Methylthio)-4-morpholinopyrimidin-2-yl)phenyl)-1H-benzo[d]imidazol-2-amine | 40 mg, 73% | CSC=1C(=NC(=NC1)C1=CC=C(C=C1)NC1=NC2=C(N1)C=CC=C2)N2CCOCC2 | C22H22N6OS
